US07442797B2
A hexane (70 ml) solution of N,N-dimethylaminoethanol (12.0 ml, 118.5 mmol) was dropwise added to a hexane solution of n-butyllithium (150 ml, 1.58 M, 237.0 mmol) at 5° C. while 30 minutes. Next, a hexane (10 ml) solution of 2-phenylpyridine (8.5 ml, 59.3 mmol) was dropwise added to the mixture at 5° C. while 20 minutes. A hexane solution of 2-lithio-6-phenylpyridine was prepared by the mixture stirred at 5° C. for 1 hour additionally.

reactant | N,N-dimethylaminoethanol | 118.5 mmol, 12.0 ml | CN(C)CCO | C4H11NO
reactant | n-butyllithium | 237.0 mmol, 1.58 M, 150 ml | C(CCC)[Li]
reactant | 2-phenylpyridine | 59.3 mmol, 8.5 ml | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | hexane | 70 ml | CCCCCC | C6H14
product | 2-lithio-6-phenylpyridine | [Li]C1=NC(=CC=C1)C1=CC=CC=C1 | InChI=1S/C11H8N.Li/c1-2-6-10(7-3-1)11-8-4-5-9-12-11;/h1-8H;
